US08604069B2
(A-53-10) 1-(2,2-Dibromovinyl)-3-(2,2-dimethylpropyl)cyclobutane
To a solution of carbon tetrabromide (205 g) in methylene chloride (600 mL) was added a solution of triphenylphosphine (325 g) in methylene chloride (350 mL) dropwise at ice temperature. After the mixture was stirred at ice temperature for 45 min, a solution of 3-(2,2-dimethylpropyl)cyclobutanecarbaldehyde in toluene was added to the reaction at ice temperature. The mixture was stirred at ice temperature for 1 hr and aqueous 10 w/v % sodium carbonate (660 mL) was added to the mixture dropwise at the same temperature. The resultant precipitate was filtered off and the filtrate was extracted with chloroform. The organic layer was washed with water and brine, then dried over sodium sulfate. After an addition of silica gel to the mixture, the mixture was stirred at RT. The sodium sulfate and silica gel were filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by silica gel column chromatography (Eluent: hexane) to give the title compound (120.33 g).

reactant | carbon tetrabromide | 205 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 325 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(2,2-dimethylpropyl)cyclobutanecarbaldehyde | CC(CC1CC(C1)C=O)(C)C | C10H18O
reactant | sodium carbonate | 660 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 600 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(2,2-Dibromovinyl)-3-(2,2-dimethylpropyl)cyclobutane | 120.33 g | BrC(=CC1CC(C1)CC(C)(C)C)Br | C11H18Br2
